US08222416B2
A mixture of 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-2-fluoro-benzoic acid methyl ester (2.50 g, 4.79 mmol) and tetrabutylammonium fluoride solution in tetrahydrofuran (1 M, 8 mL) was stirred at 25° C. for 16 h. The reaction was quenched with a saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with ethyl acetate (2×100 mL), washed with a saturated aqueous ammonium chloride solution (3×50 mL), brine, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester (1.50 g, 81%) which was used in the next step without further purification: LC/MS m/e calcd for C22H20F2N2O2 [M+H]+ 383.41, observed 382.9.

reactant | 4-[1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-2-fluoro-benzoic acid methyl ester | 4.79 mmol, 2.50 g | COC(C1=C(C=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1S(=O)(=O)C1=CC=CC=C1)F)=O | C28H24F2N2O4S
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 1 M, 8 mL | O1CCCC1 | C4H8O
product | 4-[2-cyclopentyl-1-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-vinyl]-2-fluoro-benzoic acid methyl ester | 1.50 g, 81% | COC(C1=C(C=C(C=C1)C(=CC1CCCC1)C1=CC=2C(=NC=C(C2)F)N1)F)=O | C22H20F2N2O2
